US07507740B2
(ii) Production of N-(4-{[3-chloro-4-(3-cyanophenoxy)phenyl]amino}-6-iodopyrimidin-5-yl)-2,2,2-trifluoro-N-methylacetamide
N-(4,6-Diiodopyrimidin-5-yl)-2,2,2-trifluoro-N-methylacetamide (3 g) and 3-(4-amino-2-chlorophenoxy)benzonitrile (1.69 g) were dissolved in 1-methyl-2-pyrrolidone (11.4 mL), and the mixture was stirred with heating at 100° C. for 16 hrs. To the reaction mixture was added aqueous sodium hydrogen carbonate (80 mL) and the mixture was extracted with ethyl acetate (100 mL×2). The organic layer washed with saturated brine (80 mL), dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent, hexane:ethyl acetate=90:10→hexane:ethyl acetate=50:50) and crystallized from diisopropyl ether to give the title compound (1.67 g) as colorless crystals.

reactant | N-(4,6-Diiodopyrimidin-5-yl)-2,2,2-trifluoro-N-methylacetamide | 3 g | IC1=NC=NC(=C1N(C(C(F)(F)F)=O)C)I | C7H4F3I2N3O
reactant | 3-(4-amino-2-chlorophenoxy)benzonitrile | 1.69 g | NC1=CC(=C(OC=2C=C(C#N)C=CC2)C=C1)Cl | C13H9ClN2O
reactant | sodium hydrogen carbonate | 80 mL | C(O)([O-])=O.[Na+]
solvent | 1-methyl-2-pyrrolidone | 11.4 mL | CN1C(CCC1)=O | C5H9NO
product | N-(4-{[3-chloro-4-(3-cyanophenoxy)phenyl]amino}-6-iodopyrimidin-5-yl)-2,2,2-trifluoro-N-methylacetamide | 1.67 g | ClC=1C=C(C=CC1OC1=CC(=CC=C1)C#N)NC1=NC=NC(=C1N(C(C(F)(F)F)=O)C)I | C20H12ClF3IN5O2
